US07405219B2
7-(5-Methyl-2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 19)
A solution of 6-(5-methyl-2-furyl)pyrimidine-2,4,5-triamine (5.8 g, 30.1 mmol) in dioxane (116 mL) was treated with isoamyl nitrite (4.1 mL, 30.5 mmol), heated at 80° C. for 3.5 h, cooled to room temperature and the resulting precipitate was filtered, washed with dioxane (10 mL) and heptane (2×15 mL) then triturated with heptane and filtered to give the title compound (4.7 g, 77%) as a sandy solid.

reactant | 6-(5-methyl-2-furyl)pyrimidine-2,4,5-triamine | 30.1 mmol, 5.8 g | CC1=CC=C(O1)C1=C(C(=NC(=N1)N)N)N | C9H11N5O
reactant | isoamyl nitrite | 30.5 mmol, 4.1 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | dioxane | 116 mL | O1CCOCC1 | C4H8O2
product | 7-(5-Methyl-2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 4.7 g, 77% | CC1=CC=C(O1)C=1C2=C(N=C(N1)N)N=NN2 | C9H8N6O
